US07022689B2
To a stirred solution of 1.18 mL of acetic anhydride in 5 mL of acetic acid was added a solution of 2.214 g of 2-hydroxyimino-3-(4-isopropyl-2-nitrophenyl)propionic acid in 5 mL of acetic acid at room temperature, and the mixture was stirred at 50° C. for 2 hours. After the reaction mixture was concentrated under reduced pressure, to the residue were added ethyl acetate and saturated aqueous sodium bicarbonate solution, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate, and the organic layers were combined. After being washed with water, and brine, the organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give 1.835 g of (4-isopropyl-2-nitrophenyl)acetonitrile.

reactant | acetic anhydride | 1.18 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-hydroxyimino-3-(4-isopropyl-2-nitrophenyl)propionic acid | 2.214 g | ON=C(C(=O)O)CC1=C(C=C(C=C1)C(C)C)[N+](=O)[O-] | C12H14N2O5
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | (4-isopropyl-2-nitrophenyl)acetonitrile | 1.835 g | C(C)(C)C1=CC(=C(C=C1)CC#N)[N+](=O)[O-] | C11H12N2O2
